US05298652
Sodium hydroxide hydrolysis of 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoic acid methyl ester using conditions described in Example 60 gave 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoic acid (94% yield, mp 85°-87° ).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H42O5
product | 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoic acid | 94% yield | O(C1=CC=CC=C1)CCCCCCCCCCCCOC=1C=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1 | C32H40O5
